US07381806B2
Step 1: Preparation of 4-((E)-{4-[(2-bromoethyl)(ethyl)amino]phenyl}diazenyl)benzaldehyde-((2Z)-3,4-dimethyl-1,3-thiazol-2(3H)ylidene) hydrazone
A mixture of 0.43 g of 4-((E)-{4-[(2-bromoethyl) (ethyl)amino]phenyl}diazenyl)benzaldehyde and 0.21 g of (2Z)-3,4-dimethyl-1,3-thiazol-2(3H)-one hydrazone hydrochloride in 10% acetic acid is stirred at room temperature for 60 minutes. Next, the preparation is diluted with 50 mL of water and cooled with ice. The reaction mixture is made neutral with 2N sodium hydroxide, then the precipitate that formed is suction filtered off, washed with water, and the product obtained is dried under vacuum.

reactant | 4-((E)-{4-[(2-bromoethyl) (ethyl)amino]phenyl}diazenyl)benzaldehyde | 0.43 g | BrCCN(C1=CC=C(C=C1)/N=N/C1=CC=C(C=O)C=C1)CC | C17H18BrN3O
reactant | (2Z)-3,4-dimethyl-1,3-thiazol-2(3H)-one hydrazone hydrochloride | 0.21 g | Cl.CN1/C(/SC=C1C)=N/N
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
product | 4-((E)-{4-[(2-bromoethyl)(ethyl)amino]phenyl}diazenyl)benzaldehyde-((2Z)-3,4-dimethyl-1,3-thiazol-2(3H)ylidene) hydrazone | CN1/C(/SC=C1C)=N/N=CC1=CC=C(C=C1)\N=N\C1=CC=C(C=C1)N(CC)CCBr | C22H25BrN6S
